US07235574B2
ii) Toluene-4-sulfonic acid 2-[1,2,3]triazol-1-yl-ethyl ester
A solution of 12.9 g (66.3 mmol) p-toluenesulfonic acid chloride, 2.03 g (16.6 mmol) 4-(N,N-dimethylamino)-pyridine and 11.2 ml (80.2 mmol) triethylamine in 150 ml dichloromethane was cooled to −10° C. A solution of 7.50 g (66.3 mmol) 2-(1H-[1,2,3]triazol-1-yl)-ethanol in 150 ml dichloromethane was added dropwise and the mixture stirred overnight at −4° C. 170 ml Ice and 170 ml dichloromethane were added and stirring continued for 10 min. followed by addition of 3.9 ml conc. HCl. The organic phase was separated, washed with sat. NaHCO3-solution and brine, dried over Na2SO4 and solvents distilled off. Yield 15.3 g (86%) orange crystals.

reactant | p-toluenesulfonic acid chloride | 66.3 mmol, 12.9 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | triethylamine | 80.2 mmol, 11.2 ml | C(C)N(CC)CC | C6H15N
reactant | 2-(1H-[1,2,3]triazol-1-yl)-ethanol | 66.3 mmol, 7.50 g | N1(N=NC=C1)CCO | C4H7N3O
reactant | HCl | 3.9 ml | Cl | ClH
catalyst | 4-(N,N-dimethylamino)-pyridine | 16.6 mmol, 2.03 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 170 ml | ClCCl | CH2Cl2
product | Toluene-4-sulfonic acid 2-[1,2,3]triazol-1-yl-ethyl ester | N1(N=NC=C1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C11H13N3O3S
